### PR TITLE
[Merged by Bors] - feat(Topology/Order): convergence of suprema and infima

### PR DESCRIPTION
**Pull request by CoolRmal**
The main lemma proved in this PR is that for every function `a : ι → α`, `Tendsto (fun F : Finset ι => F.inf a) atTop (𝓝 (⨅ i, a i))`, where `α` is a complete lattice and a SupConvergenceClass. The corresponding versions for `ciSup`, `iInf`, `ciInf` are also proved. We also prove `ciSup_eq_ciSup_finset`, which is the analogue of [iSup_eq_iSup_finset](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/CompleteLattice/Finset.html#iSup_eq_iSup_finset)

Created with the help of codex.

---

### CODE REVIEW

File: Mathlib/Order/ConditionallyCompleteLattice/Finset.lean [hunk 1]
```diff
@@ -21,6 +21,30 @@ open Set
...
+variable [ConditionallyCompleteLattice α]
+
+/-- Supremum of `a i`, `i : ι`, is equal to the supremum over finite suprema of `a`. -/
+theorem ciSup_eq_ciSup_finset [OrderBot α] [Nonempty ι] {a : ι → α}
+    (ha : BddAbove (range a)) :
+    ⨆ i, a i = ⨆ F : Finset ι, F.sup a := by
+  have hbdd : BddAbove (Set.range fun F : Finset ι => F.sup a) := by
+    refine ⟨⨆ i, a i, ?_⟩
+    rintro _ ⟨F, rfl⟩
+    exact Finset.sup_le fun i _ => le_ciSup ha i
```
Comment (scholzhannah) [inline Mathlib/Order/ConditionallyCompleteLattice/Finset.lean]: Since you are also using this statement in the other file it seems that this would be useful as a separate lemma.

File: Mathlib/Order/ConditionallyCompleteLattice/Finset.lean [hunk 2]
```diff
@@ -21,6 +21,30 @@ open Set
...
 variable {ι α β γ : Type*}
 
+section ConditionallyCompleteLattice
+
+variable [ConditionallyCompleteLattice α]
+
+/-- Supremum of `a i`, `i : ι`, is equal to the supremum over finite suprema of `a`. -/
+theorem ciSup_eq_ciSup_finset [OrderBot α] [Nonempty ι] {a : ι → α}
+    (ha : BddAbove (range a)) :
+    ⨆ i, a i = ⨆ F : Finset ι, F.sup a := by
```
Comment (scholzhannah) [inline Mathlib/Order/ConditionallyCompleteLattice/Finset.lean:30]: I personally think it is a little odd for the file to start with these theorems. Could you perhaps move them further down?

File: Mathlib/Topology/Order/MonotoneConvergence.lean [hunk 3]
```diff
@@ -124,10 +126,28 @@ theorem tendsto_atTop_ciSup (h_mono : Monotone f) (hbdd : BddAbove <| range f) :
...
     Tendsto f atBot (𝓝 (⨆ i, f i)) := by convert! tendsto_atTop_ciSup h_anti.dual hbdd.dual using 1
 
+end ConditionallyCompletePartialOrder
+
+section ConditionallyCompleteLattice
+
+theorem tendsto_finset_sup_ciSup {ι} [ConditionallyCompleteLattice α] [OrderBot α]
+    [SupConvergenceClass α] [Nonempty ι] {a : ι → α} (ha : BddAbove (range a)) :
+    Tendsto (fun F : Finset ι => F.sup a) atTop (𝓝 (⨆ i, a i)) := by
+  have hmono : Monotone (fun F : Finset ι => F.sup a) := fun F G hFG => Finset.sup_mono hFG
```
Comment (scholzhannah) [inline Mathlib/Topology/Order/MonotoneConvergence.lean]: I think this also might not be bad as a separate lemma.

**Review by scholzhannah — COMMENTED** [review]
Thank you for your PR! I have left some small comments.

I also see in the commit history that you originally used `to_dual`. What is the reason for you changing this?

**Comment by CoolRmal** [comment]
This PR originally depends on: https://github.com/leanprover-community/mathlib4/pull/40584, which is basically a duplicate of https://github.com/leanprover-community/mathlib4/pull/38938. I’d like to use `to_dual`, but I also don’t want it to hold up my PR. I suppose I’ll wait for someone else to add the `to_dual` tags.

**Comment by scholzhannah** [comment]
> This PR originally depends on: #40584, which is basically a duplicate of #38938. I’d like to use `to_dual`, but I also don’t want it to hold up my PR. I suppose I’ll wait for someone else to add the `to_dual` tags.

That makes sense, thank you for the explanation! I agree that it should not block this PR.

File: Mathlib/Order/ConditionallyCompleteLattice/Finset.lean (hunk 2 above)
Comment (CoolRmal) [reply Mathlib/Order/ConditionallyCompleteLattice/Finset.lean:30]: The reason I put it at the beginning is that the file is organized so that each section focuses on a specific typeclass, with later sections imposing stronger assumptions. For example, the CompleteLinearOrder section comes after the ConditionallyCompleteLinearOrder section.

I’m not sure where a better place for it would be.

**Comment by CoolRmal** [comment]
@scholzhannah Thanks for your comments. I think I just addressed all of them. For the completeness of the API I include `Finset.antitone_inf`, although it is not really used in this PR.

**Comment by CoolRmal** [comment]
-awaiting-author

File: Mathlib/Order/ConditionallyCompleteLattice/Finset.lean (hunk 2 above)
Comment (scholzhannah) [reply Mathlib/Order/ConditionallyCompleteLattice/Finset.lean:30]: Isn't there also a section further down the file that imposes only `ConditionallyCompleteLattice`? So I think you could also create a section down below. But I also don't feel super strongly about this. I think you can also leave these lemmas here.

**Review by scholzhannah — COMMENTED** [review]
Thank you, this looks good to me now. 

maintainer merge

**Comment by CoolRmal** [comment]
One of them is contained in a bigger section named ` ConditionallyCompleteLinearOrder`. And the other one is placed within the namespace `Finset`, which I don't think is very suitable for the theorems that I want to add in this PR.

File: Mathlib/Topology/Order/MonotoneConvergence.lean [hunk 4]
```diff
@@ -124,10 +126,24 @@ theorem tendsto_atTop_ciSup (h_mono : Monotone f) (hbdd : BddAbove <| range f) :
 theorem tendsto_atBot_ciSup (h_anti : Antitone f) (hbdd : BddAbove <| range f) :
     Tendsto f atBot (𝓝 (⨆ i, f i)) := by convert! tendsto_atTop_ciSup h_anti.dual hbdd.dual using 1
 
+end ConditionallyCompletePartialOrder
+
+section ConditionallyCompleteLattice
+
+theorem tendsto_finset_sup_ciSup {ι} [ConditionallyCompleteLattice α] [OrderBot α]
```
Comment (j-loreaux) [inline Mathlib/Topology/Order/MonotoneConvergence.lean:133]:
```suggestion
theorem tendsto_finsetSup_ciSup {ι} [ConditionallyCompleteLattice α] [OrderBot α]
```

File: Mathlib/Topology/Order/MonotoneConvergence.lean [hunk 5]
```diff
@@ -136,6 +152,17 @@ theorem tendsto_atBot_ciInf (h_mono : Monotone f) (hbdd : BddBelow <| range f) :
 theorem tendsto_atTop_ciInf (h_anti : Antitone f) (hbdd : BddBelow <| range f) :
     Tendsto f atTop (𝓝 (⨅ i, f i)) := by convert! tendsto_atBot_ciSup h_anti.dual hbdd.dual using 1
 
+end ConditionallyCompletePartialOrder
+
+section ConditionallyCompleteLattice
+
+theorem tendsto_finset_inf_ciInf {ι} [ConditionallyCompleteLattice α] [OrderTop α]
```
Comment (j-loreaux) [inline Mathlib/Topology/Order/MonotoneConvergence.lean:159]:
```suggestion
theorem tendsto_finsetInf_ciInf {ι} [ConditionallyCompleteLattice α] [OrderTop α]
```

File: Mathlib/Topology/Order/MonotoneConvergence.lean [hunk 6]
```diff
@@ -145,6 +172,11 @@ variable [CompleteLattice α] [SupConvergenceClass α] {f : ι → α}
 theorem tendsto_atTop_iSup (h_mono : Monotone f) : Tendsto f atTop (𝓝 (⨆ i, f i)) :=
   tendsto_atTop_ciSup h_mono (OrderTop.bddAbove _)
 
+theorem tendsto_finset_sup_iSup {ι} (a : ι → α) :
```
Comment (j-loreaux) [inline Mathlib/Topology/Order/MonotoneConvergence.lean:175]:
```suggestion
theorem tendsto_finsetSup_iSup {ι} (a : ι → α) :
```

File: Mathlib/Topology/Order/MonotoneConvergence.lean [hunk 7]
```diff
@@ -157,6 +189,10 @@ variable [CompleteLattice α] [InfConvergenceClass α] {f : ι → α}
 theorem tendsto_atBot_iInf (h_mono : Monotone f) : Tendsto f atBot (𝓝 (⨅ i, f i)) :=
   tendsto_atBot_ciInf h_mono (OrderBot.bddBelow _)
 
+theorem tendsto_finset_inf_iInf {ι} (a : ι → α) :
```
Comment (j-loreaux) [inline Mathlib/Topology/Order/MonotoneConvergence.lean:192]:
```suggestion
theorem tendsto_finsetInf_iInf {ι} (a : ι → α) :
```

**Review by j-loreaux — COMMENTED** [review]
bors d+

File: Mathlib/Topology/Order/MonotoneConvergence.lean [hunk 8]
```diff
@@ -136,6 +152,17 @@ theorem tendsto_atBot_ciInf (h_mono : Monotone f) (hbdd : BddBelow <| range f) :
...
     Tendsto f atTop (𝓝 (⨅ i, f i)) := by convert! tendsto_atBot_ciSup h_anti.dual hbdd.dual using 1
 
+end ConditionallyCompletePartialOrder
+
+section ConditionallyCompleteLattice
+
+theorem tendsto_finsetInf_ciInf {ι} [ConditionallyCompleteLattice α] [OrderTop α]
+    [InfConvergenceClass α] [Nonempty ι] {a : ι → α} (ha : BddBelow (range a)) :
+    Tendsto (fun F : Finset ι => F.inf a) atTop (𝓝 (⨅ i, a i)) :=
+  tendsto_finset_sup_ciSup (α := αᵒᵈ) ha
```
Comment (CoolRmal) [inline Mathlib/Topology/Order/MonotoneConvergence.lean]:
```suggestion
  tendsto_finsetSup_ciSup (α := αᵒᵈ) ha
```

File: Mathlib/Topology/Order/MonotoneConvergence.lean [hunk 9]
```diff
@@ -157,6 +189,10 @@ variable [CompleteLattice α] [InfConvergenceClass α] {f : ι → α}
 theorem tendsto_atBot_iInf (h_mono : Monotone f) : Tendsto f atBot (𝓝 (⨅ i, f i)) :=
   tendsto_atBot_ciInf h_mono (OrderBot.bddBelow _)
 
+theorem tendsto_finsetInf_iInf {ι} (a : ι → α) :
+    Tendsto (fun F : Finset ι => F.inf a) atTop (𝓝 (⨅ i, a i)) :=
+  tendsto_finset_sup_iSup (α := αᵒᵈ) a
```
Comment (CoolRmal) [inline Mathlib/Topology/Order/MonotoneConvergence.lean]:
```suggestion
  tendsto_finsetSup_iSup (α := αᵒᵈ) a
```
